US04979978
Preparation of (3-Chloro-2-hydroxyphenyl)-(2-hydroxyphenyl)methane
(3-Chloro-2-hydroxyphenyl)(2-methoxyphenyl)methane (3.98 g, 16 mmol) was dissolved in 100 ml of methylene chloride and 24 ml of 1M boron tribromide in methylene chloride (24 mmol) was added under nitrogen with stirring at ambient temperature. The mixture was allowed to react for 4 hours and then 100 ml of water was added slowly at ambient temperature. The organic layer was recovered and extracted with 2 N sodium hydroxide. The alkaline extract was acidified with 6 N hydrochloric acid and extracted with ether. The ether extract was dried over magnesium sulfate and concentrated by evaporation under reduced pressure to obtain 2.7 g (72 percent of theory) of the title compound. The proton nmr spectrum was consistent with the assigned structure.

reactant | (3-Chloro-2-hydroxyphenyl)(2-methoxyphenyl)methane | 16 mmol, 3.98 g | ClC=1C(=C(C=CC1)CC1=C(C=CC=C1)OC)O | C14H13ClO2
reactant | boron tribromide | 1M, 24 ml | B(Br)(Br)Br | BBr3
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 24 mmol | C(Cl)Cl | CH2Cl2
product | (3-Chloro-2-hydroxyphenyl)-(2-hydroxyphenyl)methane | ClC=1C(=C(C=CC1)CC1=C(C=CC=C1)O)O | C13H11ClO2
